US08710038B2
To a slurry solution of sodium hydride (60%, 0.13 g, 3.28 mmol) in N,N-dimethylformamide were added 4-{4-[(tert-butyl-dimethyl-silanyloxy)-methyl}-3-methoxy-phenyl}-but-3-ene-2-one (0.50 g, 1.54 mmol) and methyl benzoate (0.26 g, 1.97 mmol) at 0° C. The reaction was stirred at 0° C. for 1 h. The reaction mixture was removed from ice-bath and heated for 1 h at 60° C. The reaction was cooled to room temperature and quenched with aqueous 1.0 N hydrochloric acid (2.0 mL) slowly. Excess tetrabutylammonium fluoride was added to the above solution to deprotect the silyl group. The reaction was diluted with ethyl acetate (200 mL), washed with water (3×60 mL) and saturated aqueous sodium chloride (50 mL). The organic layer dried over magnesium sulfate, filtered, and concentrated to give impure crude product. Purification on silica (9:1 to 7:3 hexanes/ethyl acetate) to afford 5-(hydroxy-3-methoxy-phenyl)-1-phenyl-pent-4-ene-1,3-dione (0.14 g, 30% yield) as a solid: MS (EI) for C18H16O4: 297 (MH+).

reactant | sodium hydride | 3.28 mmol, 0.13 g | [H-].[Na+]
reactant | 4-{4-[(tert-butyl-dimethyl-silanyloxy)-methyl}-3-methoxy-phenyl}-but-3-ene-2-one | 1.54 mmol, 0.50 g | C(C)(C)(C)[Si](OCC1=C(C=C(C=C1)C=CC(C)=O)OC)(C)C | C18H28O3Si
reactant | methyl benzoate | 1.97 mmol, 0.26 g | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(hydroxy-3-methoxy-phenyl)-1-phenyl-pent-4-ene-1,3-dione | 0.14 g, 30% yield | OC1=C(C=CC=C1OC)C=CC(CC(=O)C1=CC=CC=C1)=O | C18H16O4
